US07141574B2
2-Amino-3H-benzoimidazole-5-carboxylic acid
A solution of cyanogen bromide (5M, 1.44 mL, 7.22 mmol) was slowly added to a suspension of 3,4-diaminobenzoate (1.0 g, 6.02 mmol) in water (10 mL). The mixture was stirred at room temperature for 24 hours. An aqueous solution of Na2CO3 (10%) was added slowly until the product had precipitated as a brown solid (890 mg).

reactant | cyanogen bromide | 7.22 mmol, 5M, 1.44 mL | N#CBr | CBrN
reactant | 3,4-diaminobenzoate | 6.02 mmol, 1.0 g | NC=1C=C(C(=O)[O-])C=CC1N
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 10 mL | O | H2O
product | 2-Amino-3H-benzoimidazole-5-carboxylic acid | NC=1NC2=C(N1)C=CC(=C2)C(=O)O | C8H7N3O2
